US06127570
1A Ethyl 5-bromo-6-methyl-2-hydroxybenzoate
A mixture of bromine (5.05 ml, 0.099 mol) and acetic acid (15 ml) is added to a mixture of ethyl 6-methyl-2-hydroxybenzoate (17.05 g, 0.095 mol), and acetic acid (15 ml) at a temperature of 20° C. The reaction mixture is stirred at room temperature for 1 hour. The reaction mixture is diluted with water and ethyl acetate. The organic phase is washed with water twice, concentrated in vacuo and the residue is purified by flash chromatography (petrol ethers:ethyl acetate, 98:2 v/v) yielding the pure product as a yellow oil, 21.7 g, (88.2%).

reactant | bromine | 0.099 mol, 5.05 ml | BrBr | Br2
reactant | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
reactant | ethyl 6-methyl-2-hydroxybenzoate | 0.095 mol, 17.05 g | CC1=CC=CC(=C1C(=O)OCC)O | C10H12O3
reactant | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 5-bromo-6-methyl-2-hydroxybenzoate | BrC=1C=CC(=C(C(=O)OCC)C1C)O | C10H11BrO3
